### PR TITLE
[Merged by Bors] - chore(Data/Nat/{Bit, Bitwise}): make `Nat.bit_mod_two` `Nat.bit_eq_zero_iff` be `simp`

### PR DESCRIPTION
**Pull request by astrainfinita**
Also deprecate `Nat.bit_eq_zero`. It is identical to `Nat.bit_eq_zero_iff`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 1]
```diff
@@ -282,10 +281,10 @@ theorem emultiplicity_two_factorial_lt : ∀ {n : ℕ} (_ : n ≠ 0), emultiplic
   · intro b n ih h
     by_cases hn : n = 0
     · subst hn
-      simp only [ne_eq, bit_eq_zero, true_and, Bool.not_eq_false] at h
-      simp only [h, bit_true, factorial, mul_one, Nat.isUnit_iff, cast_one]
+      simp only [ne_eq, bit_eq_zero_iff, true_and, Bool.not_eq_false] at h
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Multiplicity.lean:284]: I wonder if youcan drop `ne_eq` here and use `bit_ne_zero_iff`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -88,19 +88,18 @@ lemma bitwise_bit {f : Bool → Bool → Bool} (h : f false false = false := by
...
     <;> simp_all (config := {decide := true}) [two_mul]
 
+@[simp]
 lemma bit_mod_two (a : Bool) (x : ℕ) :
     bit a x % 2 = a.toNat := by
   cases a <;> simp [bit_val, mul_add_mod]
 
-@[simp]
 lemma bit_mod_two_eq_zero_iff (a x) :
     bit a x % 2 = 0 ↔ !a := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:97]: I assume we already have a lemma saying `a,toNat = 0 ↔ !a` to replace this?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
